US07491718B2
2-{[(2-{[2-(diethylamino)ethyl]sulfanyl}phenyl)sulfonyl]amino}-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A suspension of 2-(diethylamino)ethanethiol hydrochloride (560 mg, 3.30 mmol) and 60% sodium hydride dispersion (224 mg, 10.18 mmol) was stirred in 3 mL of dry DMF until hydrogen evolution ceased. The mixture was treated with a solution of 2-([(2-fluorophenyl)sulfonyl]amino)-5,6,7,8-tetrahydro-1-napthalenecarboxylic acid methyl ester (200 mg, 0.55 mmol) in 1 mL of DMF, stirred at 70 to 75° C. overnight, and concentrated. The concentrate was purified by C18 reverse-phase HPLC using acetonitrile/water/0.1% TFA to provide the desired product (200 mg, 78.7%). MS (APCI) m/e 462.8 (M+H)+; 1H NMR (400 MHz, CD3OD) δ 7.89 (dd, 1H), 7.65 (dd, 1H), 7.57 (dt, 1H) 7.34 (dt, 1H), 7.18 (d, 1H), 7.00 (d, 1H), 3.34-3.51 (m, 4H), 3.29 (m, 2H), 3.25 (q, 4H), 2.65-2.77 (m, 4H), 1.70 (m, 4H), 1.28 (t, 6H).

reactant | 2-(diethylamino)ethanethiol hydrochloride | 3.30 mmol, 560 mg | Cl.C(C)N(CCS)CC
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-([(2-fluorophenyl)sulfonyl]amino)-5,6,7,8-tetrahydro-1-napthalenecarboxylic acid methyl ester | 0.55 mmol, 200 mg | COC(=O)C1=C(C=CC=2CCCCC12)NS(=O)(=O)C1=C(C=CC=C1)F | C18H18FNO4S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{[(2-{[2-(diethylamino)ethyl]sulfanyl}phenyl)sulfonyl]amino}-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 200 mg, 78.7% | C(C)N(CCSC1=C(C=CC=C1)S(=O)(=O)NC1=C(C=2CCCCC2C=C1)C(=O)O)CC | C23H30N2O4S2
